US04628056
Preparation of 1,3-bis(methyl)-5,5-diphenylbarbiturate
In a 500 cc. 3-necked flask fitted with a reflux condenser, a mercury seal stirrer and a thermometer in a well, were placed 18 g. of 1,3-dimethylalloxan monohydrate and 60 g. of sulfuric acid, sp. gr. 1.84. Then 75 cc. of benzene were added through the reflux condenser and the mixture heated in an oil-bath, with stirring, for four and one-half hours at 75°-80°. After this time the reaction mixture was cooled, most of the benzene layer decanted, and the sirupy sulfuric acid layer poured into 150 cc. of cold water. The precipitated material was filtered and washed in a beaker with 100 cc. of water and refiltered. After drying in a vacuum this material was chromatographed on silica to furnish the pure product.

reactant | 1,3-dimethylalloxan monohydrate | O.CN1C(=O)N(C(=O)C(=O)C1=O)C
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | benzene | C1=CC=CC=C1 | C6H6
catalyst | mercury | [Hg] | Hg
product | 1,3-bis(methyl)-5,5-diphenylbarbiturate | CN1C(=O)N(C(=O)C(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C18H16N2O3
